US06420364B1
N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(2-oxo-2H-benzo[e][1,3]oxazin-4-ylamino)-propionamide
The title compound was prepared starting from 4-chloro-benzo[e][1,3] oxazin-2-one (prepared from benzo [e][1,3] oxazin-2,4-dione and PCl5 in refluxing toluene) and 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt according to the procedure from Example 81. MS, m/z 438=M+1.

reactant | 4-chloro-benzo[e][1,3] oxazin-2-one | ClC1=NC(OC2=C1C=CC=C2)=O | C8H4ClNO2
reactant | 2-amino-N-(4-cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-propionamide bis hydrochloride salt | Cl.Cl.NC(C(=O)NC1(CCN(CC1)C)C#N)CC1CCCCC1
product | N-(4-Cyano-1-methyl-piperidin-4-yl)-3-cyclohexyl-2-(2-oxo-2H-benzo[e][1,3]oxazin-4-ylamino)-propionamide | C(#N)C1(CCN(CC1)C)NC(C(CC1CCCCC1)NC1=NC(OC2=C1C=CC=C2)=O)=O | C24H31N5O3
